US06677463B1
Artemisinin (500 mg) and polyhydroxy compound (dextrose, 2 g) are stirred in dioxan (15 ml) for 5 minutes. Sodium borohydride (2.4 gm) is added slowly and the reaction mixture is stirred for 2 hours at room temperature (20-30 degree C.). After completion of the reduction step succinic anhydride (250 mg) and sodium bicarbonate (3.5 g) are added and the reaction mixture is further stirred for 2 hours. After usual workup and purification of impure reaction product (650 mg), 89.6% w/w pure artesunic acid is obtained.

reactant | Artemisinin | 500 mg | C[C@@H]1CC[C@H]2[C@H](C(=O)O[C@H]3[C@@]24[C@H]1CC[C@@](O3)(OO4)C)C | C15H22O5
reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Sodium borohydride | 2.4 gm | [BH4-].[Na+]
reactant | succinic anhydride | 250 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | sodium bicarbonate | 3.5 g | C([O-])(O)=O.[Na+]
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | artesunic acid | C[C@@H]1CC[C@H]2[C@H]([C@@H](O[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)OC(=O)CCC(=O)O)C | C19H28O8
